US07875633B2
(1) Production of cis-3-(4-bromophenyl)cyclobutanol
At −78° C., 1.0 M tri(tert-butoxy)lithiumaluminium hydride (24 mL, 24 mmol) was added to a THF (20 mL) solution of 3-(4-bromophenyl)cyclobutanone (4.53 g, 20.1 mmol), and stirred at the same temperature for 1.5 hours. Saturated ammonium chloride water and 1 N hydrochloric acid were added to the reaction liquid, extracted with ethyl acetate, dried with anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, the obtained residue was purified by silica gel column chromatography (C-200, ethyl acetate:hexane=1:4 to 3:7) to obtain the entitled compound (3.04 g, 66%).

reactant | 3-(4-bromophenyl)cyclobutanone | 20.1 mmol, 4.53 g | BrC1=CC=C(C=C1)C1CC(C1)=O | C10H9BrO
reactant | ammonium chloride water | O.[Cl-].[NH4+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | cis-3-(4-bromophenyl)cyclobutanol | 3.04 g, 66% | BrC1=CC=C(C=C1)[C@H]1C[C@H](C1)O | C10H11BrO
